US07902197B2
A mixture of 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.206 g, 0.50 mmol), potassium carbonate (0.152 g, 1.10 mmol), copper (I) iodide (0.014 g, 0.075 mmol), proline (0.017 g, 0.15 mmol) and aniline (0.46 mL, 5 mmol) in 1 mL of dimethylsulfoxide was stirred at 90° C. for 5 d, then allowed to cool. The mixture was partitioned between 50 mL of ethyl acetate and 30 mL of water, and the organic layer was washed with 30 mL of a sat. aq. NaCl solution, dried over MgSO4, and concentrated to a residue. Column chromatography (0→45% EtOAc/hexanes) afforded 0.102 g (48%) of 2,2-dimethyl-1-[2-phenylamino-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one as a pale orange solid.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.50 mmol, 0.206 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | potassium carbonate | 1.10 mmol, 0.152 g | C([O-])([O-])=O.[K+].[K+]
reactant | proline | 0.15 mmol, 0.017 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | aniline | 5 mmol, 0.46 mL | NC1=CC=CC=C1 | C6H7N
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.075 mmol, 0.014 g | [Cu]I
product | 2,2-dimethyl-1-[2-phenylamino-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.102 g, 48% | CC(C(=O)C1=CN(C2=NC=C(N=C21)NC2=CC=CC=C2)COCC[Si](C)(C)C)(C)C | C23H32N4O2Si
